US05352793
Propyl 3-pyridyl ketone was reacted with 1-chloro-3-methyl-2-butene according to the procedure of Part a) of Example 4 to give 1-(3-methyl-2-butenyl)-3-butyryl pyridinium chloride as a cream coloured crystalline solid.

reactant | Propyl 3-pyridyl ketone | N1=CC(=CC=C1)C(=O)CCC | C9H11NO
reactant | 1-chloro-3-methyl-2-butene | ClCC=C(C)C | C5H9Cl
product | 1-(3-methyl-2-butenyl)-3-butyryl pyridinium chloride | [Cl-].CC(=CC[N+]1=CC(=CC=C1)C(CCC)=O)C | InChI=1S/C14H20NO.ClH/c1-4-6-14(16)13-7-5-9-15(11-13)10-8-12(2)3;/h5,7-9,11H,4,6,10H2,1-3H3;1H/q+1;/p-1
